Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
potassium / Vytorin / warfarin / Advil / aspirin
 
Attending: ___.
 
Chief Complaint:
right hip pain
 
Major Surgical or Invasive Procedure:
right THA

 
History of Present Illness:
___ y/o F with severe right hip OA, here for definitive treatment 
in the form of a right THA with Dr. ___.
 
Past Medical History:
carotid stenosis, HTN, ischemic heart dz s/p stenting, 4.2cm 
AAA, OSA, history of PE, spinal stenosis, reflux, colon CA, CKD 
stage 3, 

 
Social History:
___
Family History:
n/c
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
* Incision healing well with Aquacel dressing with scant 
serosanguinous drainage  
* Thigh full but soft  
* No calf tenderness  
* ___ strength  
* SILT, NVI distally  
* Toes warm

 
Pertinent Results:
___ 05:50AM BLOOD WBC-15.2* RBC-2.89* Hgb-8.7* Hct-26.9* 
MCV-93 MCH-30.1 MCHC-32.3 RDW-13.9 RDWSD-47.2* Plt ___
___ 05:30AM BLOOD WBC-11.2* RBC-3.37* Hgb-10.1* Hct-31.2* 
MCV-93 MCH-30.0 MCHC-32.4 RDW-13.5 RDWSD-45.9 Plt ___
___ 05:30AM BLOOD Glucose-173* UreaN-24* Creat-1.2* Na-140 
K-4.8 Cl-99 HCO3-23 AnGap-18
___ 05:30AM BLOOD Calcium-9.2 Phos-3.3 Mg-1.8
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Postoperative course was remarkable for the following:
POD#1: Patient with pain well controlled. No overnight issues. 
Worked well with ___. Labs were WNL. Patient reported mild issues 
swallowing. Speech/swallow consult obtained, and reported that 
it is likely GI/GERD related. Will continue to monitor.
POD#2: Patient cleared ___ and was discharged to rehab in stable 
condition.  

Otherwise, pain was controlled with a combination of IV and oral 
pain medications.  The patient received Aspirin 81 mg twice 
daily for DVT prophylaxis starting on the morning of POD#1.  The 
Aquacel dressing remained clean and intact without erythema or 
abnormal drainage/saturation. The patient was seen daily by 
physical therapy. Labs were checked throughout the hospital 
course and repleted accordingly. At the time of discharge, the 
patient was tolerating a regular diet and feeling well.  The 
patient was afebrile with stable vital signs.  The patient's 
hematocrit was acceptable and pain was adequately controlled on 
an oral regimen. The operative extremity was neurovascularly 
intact.
  
The patient's weight-bearing status is weight bearing as 
tolerated on the operative extremity. Please use walker or 2 
crutches for as long as you need. They physical therapist will 
help guide you until you are safe to wean from assistive 
devices.
  
Mrs. ___ is discharged to rehab in stable condition.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO QHS 
2. Furosemide 20 mg PO DAILY 
3. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO DAILY:PRN Pain 
- Moderate 
4. Omeprazole 20 mg PO DAILY 
5. Aspirin EC 81 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every ___ hours Disp 
#*100 Tablet Refills:*0 
2.  Apixaban 2.5 mg PO BID 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every ___ Disp #*10 
Tablet Refills:*0 
5.  Senna 8.6 mg PO BID 
RX *sennosides 8.6 mg 1 tablet by mouth twice daily Disp #*60 
Tablet Refills:*0 
6.  Aspirin EC 81 mg PO DAILY  
7.  Atenolol 25 mg PO QHS  
8.  Furosemide 20 mg PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___      
 
Discharge Diagnosis:
right hip OA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
  
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
  
3. Resume your home medications unless otherwise instructed.
  
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
  
5. You may not drive a car until cleared to do so by your 
surgeon.
  
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment.
  
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. 
  
8. ANTICOAGULATION: Please continue your Eliquis 2.5mg twice 
daily for four (4) weeks to help prevent deep vein thrombosis 
(blood clots).  
  
9. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower after surgery while wearing your aquacel 
dressing, but no tub baths, swimming, or submerging your 
incision until after your first checkup and cleared by your 
surgeon. After the aquacel dressing is removed 7 days after your 
surgery, you may leave the wound open to air. Check the wound 
regularly for signs of infection such as redness or thick yellow 
drainage and promptly notify your surgeon of any such findings 
immediately.
  
10. ___ (once at home): Home ___, Aquacel removal POD#7, and 
wound checks. If there are suture tags on either end of the 
incision left, please cut the tags flush with the skin on both 
sides on POD#7, when the Aquacel is removed.
  
11. ACTIVITY: Weight bearing as tolerated with two crutches or 
walker for as long as you need. The physical therapist will help 
guide you until you are safe to wean from assistive devices. 
Posterior hip precautions. No strenuous exercise or heavy 
lifting until follow up appointment.  Mobilize frequently. 
Physical Therapy:
WBAT RLE
Posterior hip precautions 
Mobilize frequently
Wean assistive devices as able
Treatments Frequency:
remove aquacel POD#7 after surgery
apply dry sterile dressing daily if needed after aquacel 
dressing is removed
wound checks daily after aquacel removed

 
Followup Instructions:
___